US07897607B2
2-(Methylthio)pyrimidin-4(3H)-one
A mixture of 12.8 g (99.9 mmol) of 2-thiouracil and 4.3 g (108 mmol) of sodium hydroxide was placed in 500 ml Erlenmeyer flask, and dissolved on the oil bath with a minimum amount of water. Twice the volume of 99% ethanol was then added, the solution cooled to 30° C., and 6.3 ml (99.9 mmol) of methyl iodide added. The solution was heated to 60° C. for 20 min, then cooled to room temp. The precipitate was filtered off, and, after acidifying the filtrate with acetic acid, the excess solvent was removed in vacuo. The combined precipitates were thoroughly washed with water and recrystallized from ethanol to give 6.0 g (47%) of product.

reactant | 2-thiouracil | 99.9 mmol, 12.8 g | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | sodium hydroxide | 108 mmol, 4.3 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | methyl iodide | 99.9 mmol, 6.3 ml | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 2-(Methylthio)pyrimidin-4(3H)-one | 6.0 g, 47% | CSC1=NC=CC(N1)=O | C5H6N2OS
